US07863302B2
5-Cyclopropyl-4-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxymethyl]-3-(2-trifluoromethoxy-phenyl)-isoxazole
To a 5-L 3-neck round bottom flask with a mechanical stirrer, thermocouple, reflux condenser, and drying tube is added 4-bromomethyl-5-cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazole (221.7 g, 0.612 mol, 1.05 eq), acetonitrile (2 L), 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (136.5 g, 0.583 mol, 1 eq) and potassium carbonate (241.8 g, 1.749 mol, 3 eq). The reaction mixture is heated to reflux and stirred at this temperature for 1 hour. Upon completion of the reaction, as evidenced by thin layer chromatography, the reaction mixture is cooled to 0-20° C. The reaction mixture is filtered and the filter cake is washed with acetonitrile (2×100 mL). The reaction mixture is concentrated under reduced pressure to a solid which is co-evaporated with 1,4-dioxane (500 mL). The title compound is used without further purification. 1H NMR (DMSO-d6, 300 MHz): δ 7.7-7.5 (m, 5H), 6.61 (m, 2H), 4.90 (s, 2H), 2.39 (m, 1H), 2.36 (s, 3H), 1.24 (s, 12H), 1.10 (m, 4H).

reactant | 4-bromomethyl-5-cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazole | 0.612 mol, 221.7 g, 1.05 eq | BrCC=1C(=NOC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F | C14H11BrF3NO2
reactant | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 0.583 mol, 136.5 g, 1 eq | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | potassium carbonate | 1.749 mol, 241.8 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
product | 5-Cyclopropyl-4-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxymethyl]-3-(2-trifluoromethoxy-phenyl)-isoxazole | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C27H29BF3NO5
